US04224330
The acid chloride of 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid is reacted with 3-(4-fluorobenzyl)-pyrrolylmethyl alcohol in ether as in Example 20 to give 3-(4-fluorobenzyl)-pyrrolylmethyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate.

reactant | 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid | ClC=1C=CC2=C(C=C(S2)C(C(=O)O)C(C)C)C1 | C13H13ClO2S
reactant | 3-(4-fluorobenzyl)-pyrrolylmethyl alcohol | FC1=CC=C(CC2=C(NC=C2)CO)C=C1 | C12H12FNO
solvent | ether | CCOCC | C4H10O
product | 3-(4-fluorobenzyl)-pyrrolylmethyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate | ClC=1C=CC2=C(C=C(S2)C(C(=O)OCC=2NC=CC2CC2=CC=C(C=C2)F)C(C)C)C1 | C25H23ClFNO2S
